US08110687B2
To a solution of N-(3-tert-butylphenyl)-7-{[2-({[(3-chloropropyl)amino-]carbonyl}-amino)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.71 g, 1.3 mmol) in tert-butyl alcohol (15 mL) was added potassium tert-butoxide (1M in THF, 4 mL). The reaction mixture was heated at 30° C. for 12 h and then acidified with 1N HCl and concentrated. The residue was redissolved in water and DCM and the aqueous solution was further extracted with DCM. The combined organic solutions were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography. To a solution of the resulting product in MeOH, was added a 1N solution of HCl in Et2O (2 mL). The solvent was evaporated to give N-(3-tert-butylphenyl)-7-{[2-(2-oxotetrahydropyrimidin-1(2H)-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-408 as the HCl salt (0.304 g, 46%). 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 10.04 (s, 1H), 8.28 (d, 1H), 7.65 (t, 1H), 7.53-7.62 (br s, 1H), 7.48-7.53 (m, 1H), 7.29-7.32 (m, 1H), 7.17-7.26 (m, 2H), 7.04-7.08 (m, 1H), 7.00-7.04 (m, 1H), 6.94-6.99 (m, 1H), 6.77-6.82 (m, 1H), 3.81 (t, 2H), 3.21 (t, 2H), 2.74-2.97 (m, 5H), 2.05-2.13 (m, 1H), 1.95 (t, 2H), 1.70-1.83 (m, 1H), and 1.25 (s, 9H). LCMS: (FA) ES+499.7, ES−497.0.

reactant | N-(3-tert-butylphenyl)-7-{[2-({[(3-chloropropyl)amino-]carbonyl}-amino)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 1.3 mmol, 0.71 g | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)NC(=O)NCCCCl | C30H35ClN4O3
reactant | potassium tert-butoxide | 1M, 4 mL | CC(C)([O-])C.[K+]
reactant | HCl | 1N | Cl | ClH
solvent | tert-butyl alcohol | 15 mL | C(C)(C)(C)O | C4H10O
product | N-(3-tert-butylphenyl)-7-{[2-(2-oxotetrahydropyrimidin-1(2H)-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)N1C(NCCC1)=O | C30H34N4O3
